US08802829B2
Stage 1. Clarification of Naphthionic Acid
In a large beaker, add naphthionic acid sodium salt and water and stir to complete solution, pH=9.2-9.4. Slowly add hydrochloric acid, and white precipitation occurs at pH=2.2-2.4. Stir the slurry for at least 4 hours, then filter the slurry. Use the wetcake in Stage 2.

reactant | naphthionic acid sodium salt | [Na+].S(=O)(C1=CC=C(N)C2=CC=CC=C12)(=O)[O-]
solvent | water | O | H2O
product | Naphthionic Acid | S(=O)(C1=CC=C(N)C2=CC=CC=C12)(=O)O | C10H9NO3S
